US04559177
Lithium aluminum hydride (740 mg) is suspended in dry ether (80 ml) and to the suspension is added dropwise a solution of 2,3-dimethoxy-5-methyl-6-(12-methoxycarbonyldodecyl)-1,4-benzoquinone (1.06 g) in dry ether (100 ml) under ice-cooling and stirring. After 1.5 hour, ice-water is added to the mixture to decompose excess lithium aluminum hydride. The mixture is acidified with hydrochloric acid and subjected to extraction with ether. The extract is washed with water and concentrated under a reduced pressure. The residue is dissolved in methanol (30 ml) and to the solution is added a solution of ferric chloride (12 g) in water (60 ml) and the mixture is stirred at room temperature for 1.5 hour. The reaction mixture is diluted with water and subjected to extraction with ethyl acetate. The extract is washed with water, and dried. The solvent is distilled off under reduced pressure. The residue is dissolved in chloroform and subjected to column chromatography on silica gel. The crystals obtained from the first-emerging fraction eluted with chloroformethanol (99:1) is recrystallized from ether-hexane. The above procedure yields 6-(13-hydroxytridecyl)-2,3-dimethoxy-5-methyl-1,4-benzoquinone as yellow needles. (727 mg) Melting point 65°-66° C.

reactant | Lithium aluminum hydride | 740 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 2,3-dimethoxy-5-methyl-6-(12-methoxycarbonyldodecyl)-1,4-benzoquinone | 1.06 g | COC=1C(C(=C(C(C1OC)=O)C)CCCCCCCCCCCCC(=O)OC)=O | C23H36O6
reactant | hydrochloric acid | Cl | ClH
solvent | ether | 80 ml | CCOCC | C4H10O
solvent | ether | 100 ml | CCOCC | C4H10O
product | 6-(13-hydroxytridecyl)-2,3-dimethoxy-5-methyl-1,4-benzoquinone | OCCCCCCCCCCCCCC1=C(C(C(=C(C1=O)OC)OC)=O)C | C22H36O5
